Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
metformin
 
Attending: ___
 
Chief Complaint:
post stroke management
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI:
___ (AKA ___ is an ___ year old woman with
a history of dementia, a-fib, diabetes, CHF, HTN, who presented
from her assisted living facility with altered mental status and
a fever of 103.1 and was wound to have a left PCA stroke. Her 
son
reports that on ___ she was babbling and not making sense, and
had reportedly not slept the night before. She was found
unresponsive on the morning of ___ and taken to ___ where she was found to be tachycardic at 160-190 with a
blood pressure of 90/60. At 4:25PM she was intubated and a CT
scan was performed which showed a left PCA territory infarct
involving the occipital and temportal lobes as well as the
midbrain. She was started on a diltiazem drip to control her
rapid a-fib and transferred to ___ for further management. 
 
Past Medical History:
PMH/PSH:
-DEMENTIA  
-HYPERTENSION  
-OSTEOARTHRITIS  
 bilateral knees: s/p R TKR. ___. ___.  
-ATRIAL FIBRILLATION  
-DIABETES MELLITUS  
-CONGESTIVE HEART FAILURE normal EF
-GASTROINTESTINAL HEMORRHAGE  
-HARING LOSS  
-LUNG NODULE  

 
Physical Exam:
Admission Physical Exam

PHYSICAL EXAMINATION
General: ill appearing woman  
HEENT: atraumatic  
Neck: no JVD  
CV: S1S2  
Lungs: LCS  
Abdomen: bowel sounds x 4 , soft / non tender  
GU: foley in place,OGT brown drainage to low wall suction
Ext: palpable pedal pulses bilaterally  
Skin:intact  

Neuro:  
 MS- no eye opening, does not follow commands  
 CN- face grossly symmetric, pupils left 5mm NR, right 4mm NR  
 Sensory/Motor-  
 LUE attempts to localize  
 LLE withdraws to nox  
 RUE no movement  
 RLE triple flexes  
Coordination- deferred  
 
Pertinent Results:
Admission

___ 10:01PM BLOOD WBC-16.7* RBC-4.78 Hgb-14.3 Hct-45.5* 
MCV-95 MCH-29.9 MCHC-31.4* RDW-15.6* RDWSD-53.7* Plt ___
___ 10:01PM BLOOD Neuts-77.8* Lymphs-4.2* Monos-15.7* 
Eos-0.1* Baso-0.5 NRBC-0.2* Im ___ AbsNeut-12.99* 
AbsLymp-0.70* AbsMono-2.62* AbsEos-0.01* AbsBaso-0.08
___ 10:01PM BLOOD ___ PTT-24.5* ___
___ 10:01PM BLOOD Glucose-194* UreaN-59* Creat-1.6* Na-148* 
K-5.2* Cl-107 HCO3-18* AnGap-23*
___ 10:01PM BLOOD ALT-41* AST-55* AlkPhos-133* TotBili-1.0
___ 10:01PM BLOOD Albumin-2.9* Calcium-9.0 Phos-5.6* Mg-2.0
___ 03:30AM BLOOD Triglyc-85 HDL-36* CHOL/HD-2.9 LDLcalc-50
___ 03:30AM BLOOD TSH-0.25*
___ 10:18PM BLOOD ___ pO2-38* pCO2-47* pH-7.27* 
calTCO2-23 Base XS--6 Intubat-INTUBATED
___ 10:18PM BLOOD Lactate-3.6*
___ 05:24AM BLOOD freeCa-1.08*

Final Results

___ 02:34AM BLOOD WBC-12.1* RBC-3.75* Hgb-11.5 Hct-35.5 
MCV-95 MCH-30.7 MCHC-32.4 RDW-16.2* RDWSD-56.1* Plt ___
___ 02:34AM BLOOD ___ PTT-30.4 ___
___ 02:34AM BLOOD Glucose-136* UreaN-37* Creat-0.7 Na-151* 
K-4.0 Cl-116* HCO3-19* AnGap-16
___ 02:34AM BLOOD Calcium-8.3* Phos-1.5* Mg-2.1

Imaging

IMPRESSION: 
  
CT head  
1. Extensive hypodensity involving the left temporal lobe, left 
occipital 
lobe, bilateral thalami, and the left mid brain consistent with 
large left PCA territory infarct as well hypodensities in as 
bilateral cerebellum are noted. 
2. No evidence of midline shift or hemorrhage. 

ECHO
Mitral valve prolapse with mild-moderate mitral regurgitation. 
Moderate tricuspid regurgitation. Normal biventricular cavity 
sizes with preserved regional and global biventricular systolic 
function. Moderate pulmonary artery systolic hypertension. 

 
Brief Hospital Course:
___ (AKA ___ was a ___ year old woman with 
a history of dementia, a-fib, diabetes, CHF, HTN, who presented 
from her assisted living facility with altered mental status and
a fever of 103.1 and was wound to have a left PCA stroke. 
Etiology of her stroke was thought to be cardioembolic in the 
setting of atrial fibrillation possibly exacerbated by febrile 
illness. There was a discussion with family in regards to 
patient's poor prognosis and goals of care. They decided to make 
the patient confort measures only. The patient was subsequently 
terminally extubated in the ICU and transferred to the neurology 
floor. On ___, she expired at 7:03am. Autopsy was declined.

 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
NA
 
Discharge Condition:
NA
 
Discharge Instructions:
NA
 
Followup Instructions:
___